US05057517
To 5.0 g (31 mmol) of 5-amino-4-chloro-6-methylaminopyrimidine suspended in 200 ml of triethyl orthoformate was added 2.6 ml of concentrated HCl and the resultant mixture stirred overnight at room temperature (r.t.). The white precipitate was then collected, washed with ether which was then combined with the orthoformate which was concentrated to give pure 6-chloro-9-methylpurine by tlc (thin layer chromatography) (silica, 90:10 CHCl3 :CH3OH). The filtered solid was returned to 150 ml ethyl orthoformate, treated with 1.0 ml concentrated HCl and stirred at 60° C. for 18 hours. The solution was evaporated and the solids combined to give 5 g (94%) of 6-chloro-9-methylpurine, m.p. 205°-207° C.

reactant | 5-amino-4-chloro-6-methylaminopyrimidine | 31 mmol, 5.0 g | NC=1C(=NC=NC1NC)Cl | C5H7ClN4
reactant | HCl | 2.6 ml | Cl | ClH
reactant | triethyl orthoformate | 200 ml | C(OCC)(OCC)OCC | C7H16O3
product | 6-chloro-9-methylpurine | ClC1=C2N=CN(C2=NC=N1)C | C6H5ClN4
